US04410520
A solution of 3-chloro-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (15.9 g, 0.08 mol) and sodium azide (6.36 g, 0.10 mol) in dimethylsulfoxide (320 ml) was maintained at 80° C. under an atmosphere of nitrogen for 3 hours. At this time, the IR spectrum of an aliquot showed a strong peak at 2150 cm-1 characteristic of the azide group. The reaction mixture was poured into 1000 ml of ice/water and the suspension was stirred for 30 min. The solid was filtered off, washed with water (250 ml) and dried to give 3-azido-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 142°-145°.

reactant | 3-chloro-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.08 mol, 15.9 g | ClC1C(NC2=C(CC1)C=CC=C2)=O | C10H10ClNO
reactant | sodium azide | 0.10 mol, 6.36 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulfoxide | 320 ml | CS(=O)C | C2H6OS
product | 3-azido-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | N(=[N+]=[N-])C1C(NC2=C(CC1)C=CC=C2)=O | C10H10N4O
